US04358624
Preparation of 2-methyl-4(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)phenol
The procedure of Example 1 was essentially repeated, except that the xylenol was replaced with 540 g (5.0 moles) of orthocresol, and gaseous hexafluoroacetone, 83 g (0.5 mole) was added via a glass gas delivery tube reaching below the surface of the well-stirred mixture. At the completion of the reaction, as in Example 1, after recrystallization from hexane, white crystals of 1-methyl-4(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)phenol having 99.7% purity and melting at 89.5°-90.5° C. were isolated from the reaction mixture.

reactant | xylenol | C1(C(C=CC=C1)C)(C)O | C8H12O
reactant | orthocresol | 5.0 moles, 540 g | C1(=CC=CC=C1O)C | C7H8O
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
product | 2-methyl-4(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)phenol | CC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)O | C10H8F6O2
